US05756505
1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-isobutylpiperazine hydrochloride
1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-isobutylpiperazine (3.18 g) was dissolved in diethyl ether (20 ml) and then 15 ml of 1N hydrogen chloride in ether was added. After this mixture was stirred for 10 minutes at room temperature, the resulting crystals were collected by filtration, thereby yielding 4.40 g of the aimed compound.

reactant | 1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-isobutylpiperazine | 3.18 g | FC1=CC=C(COC2=C(C=C(C(=O)N3CCN(CC3)CC(C)C)C=C2)CC(C)C)C=C1 | C26H35FN2O2
reactant | hydrogen chloride | 1N, 15 ml | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-isobutylpiperazine hydrochloride | 4.40 g | Cl.FC1=CC=C(COC2=C(C=C(C(=O)N3CCN(CC3)CC(C)C)C=C2)CC(C)C)C=C1 | InChI=1S/C26H35FN2O2.ClH/c1-19(2)15-23-16-22(26(30)29-13-11-28(12-14-29)17-20(3)4)7-10-25(23)31-18-21-5-8-24(27)9-6-21;/h5-10,16,19-20H,11-15,17-18H2,1-4H3;1H
